US06251897B1
3-cyclopentyloxy-4-methoxybenzaldehyde (13.00 g, 59.02 mM) and hydroxylamine hydrochloride (8.46 g, 118.04 mM) were dissolved in pyridine (120 ml) and the resultant mixture was heated to reflux for 23 hours. The solution obtained was cooled to room temperature, water (100 ml) was added, then the solution was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, then the solvent was removed in vacuo to obtain a green oily residue. The residue was purified by flash chromatography (SiO2: eluted by 20% ethyl acetate/hexane). The solvent was removed in vacuo and the resultant product was dried to obtain 3-cyclopentyloxy-4-methoxybenzaldehyde oxime 14.57 g as a colorless oil. The 3-cyclopentyloxy-4-methoxybenzaldehyde oxime (14.57 g) thus obtained was dissolved in acetic acid (130 ml) and the resultant mixture was heated to reflux for 22 hours. The solution obtained was ice cooled, then a saturated sodium hydrogencarbonate solution was added to neutralize it. The solution was extracted with ethyl acetate, the organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed in vacuo to obtain a red solid residue. The residue was purified by flash chromatography (SiO2: eluted by 25% ethyl acetate/hexane). The solvent was removed in vacuo and the result dried to obtain 3-cyclopentyloxy-4-methoxybenzonitrile 9.60 g (yield 75.2%) as a yellow-green oil.

reactant | 3-cyclopentyloxy-4-methoxybenzaldehyde oxime | 14.57 g | C1(CCCC1)OC=1C=C(C=NO)C=CC1OC | C13H17NO3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 130 ml | C(C)(=O)O | C2H4O2
product | 3-cyclopentyloxy-4-methoxybenzonitrile | 9.60 g, yield 75.2% | C1(CCCC1)OC=1C=C(C#N)C=CC1OC | C13H15NO2
